US07608629B2
2-Chloro-4-fluoro-N-[3-(2-methyl-piperidin-4-yloxy)-phenyl]-benzamide cis isomer 1
Combine 4-[3-(2-chloro-4-fluoro-benzoylamino)-phenoxy]-2-methyl-piperidine-1-carboxylic acid tert-butyl ester cis isomer 1 (Preparation 78, 0.60 g, 1.31 mmol), toluene (20 mL), and p-toluenesulfonic acid monohydrate (2.5 g, 13.1 mmol), stir, and heat at 100° C. After 1 hr., cool to ambient temperature. Concentrate the reaction mixture. Partition the residue between ethyl acetate (100 mL) and 1M aqueous sodium hydroxide solution (50 mL). Separate the organic layer, wash with 1M aqueous sodium hydroxide solution (2×50 mL), wash with aqueous NaCl solution (50 mL), dry over sodium sulfate, filter and concentrate. Purify residue by silica gel flash chromatography eluting with 10% (2M ammonia/methanol) in dichloromethane to obtain the title compound (0.26 g, 55%). Mass spectrum: Obs. m/z 363.1289; Calc. m/z 363.1275; Analysis calculated for C19H21C12FN2O2.0.9H2O: C, 54.92; H, 5.53; N, 6.74. Found: C, 54.90; H, 5.36; N, 6.55. 1H NMR (CDCl3) of free base: 7.9 (bs, 1H), 7.8 (m, 1H), 7.4 (s, 1H), 7.2 (m, 3H), 7.1 (m, 2H), 6.7 (dd, 1H), 4.3 (m, 1H), 3.2 (m, 1H), 2.75 (m, 2H), 2.15 (m, 2H), 1.45 (m, 2H), 1.1 (d, 3H).

reactant | 4-[3-(2-chloro-4-fluoro-benzoylamino)-phenoxy]-2-methyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CC(CC1)OC1=CC(=CC=C1)NC(C1=C(C=C(C=C1)F)Cl)=O)C | C24H28ClFN2O4
reactant | p-toluenesulfonic acid monohydrate | 13.1 mmol, 2.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-4-fluoro-N-[3-(2-methyl-piperidin-4-yloxy)-phenyl]-benzamide | 0.26 g, 55% | ClC1=C(C(=O)NC2=CC(=CC=C2)OC2CC(NCC2)C)C=CC(=C1)F | C19H20ClFN2O2
